US05696132
Ethyl 6,7-Difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate
In 25 ml of anhydrous dioxane was dissolved 2.40 g of ethyl 3-[(1R,2S)-2-fluorocyclopropylamino]-2-(2,4,5-trifluoro-6-methylbenzoyl)acrylate, and 338 mg of 60% sodium hydride in oil was added thereto under cooling with ice, followed by stirring at room temperature for 1 hour. The reaction mixture was poured into a mixture of 50 ml of 1N hydrochloric acid and 50 ml of dichloromethane, followed by stirring. The organic layer was separated. The aqueous layer was extracted with 100 ml of dichloromethane, and the extract was combined with the organic layer. The combined organic layer was dried over anhydrous sodium sulfate, the dichloromethane was removed by distillation, and the residue was dried in vacuo to yield yellow crude crystals. The crude crystals to yield with diethyl ether, filtered, and dried to yield 1.76 g of the titled compound as a pale yellow powder. The product was recrystallized from acetonitrile.

reactant | ethyl 3-[(1R,2S)-2-fluorocyclopropylamino]-2-(2,4,5-trifluoro-6-methylbenzoyl)acrylate | 2.40 g | F[C@@H]1[C@@H](C1)NC=C(C(=O)OCC)C(C1=C(C=C(C(=C1C)F)F)F)=O | C16H15F4NO3
reactant | sodium hydride | 338 mg | [H-].[Na+]
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | Ethyl 6,7-Difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.76 g | FC=1C(=C2C(C(=CN(C2=CC1F)[C@H]1[C@H](C1)F)C(=O)OCC)=O)C | C16H14F3NO3
